US07615628B2
Hydrochloric acid (35 wt %, 892 μl) was added to 2,3-diamino-4-(2-thienyl)-6-ethoxycarbonylaminopyridine (1.28 g, 4.61 mmol) and orthoformic acid ethyl ester (24.6 ml), followed by stirring at room temperature for 3 days. This solution was filtered and the product was washed with ether to give 7-(2-thienyl)-5-ethoxycarbonylamino-3H-imidazo[4,5-b]pyridine (1.36 g, yield 91%).

reactant | Hydrochloric acid | 892 μl | Cl | ClH
reactant | 2,3-diamino-4-(2-thienyl)-6-ethoxycarbonylaminopyridine | 4.61 mmol, 1.28 g | NC1=NC(=CC(=C1N)C=1SC=CC1)NC(=O)OCC | C12H14N4O2S
reactant | orthoformic acid ethyl ester | 24.6 ml | C(C)OC(O)O | C3H8O3
product | 7-(2-thienyl)-5-ethoxycarbonylamino-3H-imidazo[4,5-b]pyridine | 1.36 g, yield 91% | S1C(=CC=C1)C1=C2C(=NC(=C1)NC(=O)OCC)NC=N2 | C13H12N4O2S
